US05399695
Synthesis of N-(4-methoxybenzyl)-N,N-dimethylanilinium hexafluorantimonate
13.81 g (0.1 mol) of 4-methoxybenzylalcohol and 35.78 g (0.1 mol) of N,N-dimethylaniline hexafluoroantimonate were dissolved in 100 g of nitromethane and, after the addition of 12.04 g (0.1 mol) of magnesium sulfate, allowed to react at 80° C. for 4 hours. After the completion of the reaction, the mixture was filtered and the filtrate was concentrated. The precipitated white solid was washed with ether and dried to give the titled compound. Yield: 70%.

reactant | 4-methoxybenzylalcohol | 0.1 mol, 13.81 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | N,N-dimethylaniline hexafluoroantimonate | 0.1 mol, 35.78 g | F[Sb-](F)(F)(F)(F)F.CN(C1=CC=CC=C1)C
reactant | magnesium sulfate | 0.1 mol, 12.04 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | nitromethane | 100 g | [N+](=O)([O-])C | CH3NO2
product | N-(4-methoxybenzyl)-N,N-dimethylanilinium hexafluorantimonate | Yield: 70% | F[Sb-](F)(F)(F)(F)F.COC1=CC=C(C[N+](C2=CC=CC=C2)(C)C)C=C1 | InChI=1S/C16H20NO.6FH.Sb/c1-17(2,15-7-5-4-6-8-15)13-14-9-11-16(18-3)12-10-14;;;;;;;/h4-12H,13H2,1-3H3;6*1H;/q+1;;;;;;;+5/p-6
